US04831013
The methyl carbamate of 2-amino-3-cyano-4,5,6,7-tetrahydrobenzo(b)thiophene (7.08 g), 2-fluorobenzhydrazide (4.66 g), 2-methoxyethanol (100 mL) and tri-n-propylamine (3 mL) are refluxed under nitrogen for 19 hours. The mixture is cooled and the precipitate collected. The mother liquor is treated with methanol (100 mL) and refrigerated 24 hours to produce a second crop of solid. The combined material is recrystallized from 2-methoxyethanol and dried 20 hours at 100°/0.01 mm to afford 2-(2-fluorophenyl)-8,9,10,11-tetrahydro[1]benzothieno[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)one, which decomposes above 316°. The yield is 50%.

reactant | methyl carbamate | C(N)(OC)=O | C2H5NO2
reactant | 2-amino-3-cyano-4,5,6,7-tetrahydrobenzo(b)thiophene | 7.08 g | NC1=C(C2=C(S1)CCCC2)C#N | C9H10N2S
reactant | 2-fluorobenzhydrazide | 4.66 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
reactant | tri-n-propylamine | 3 mL | C(CC)N(CCC)CCC | C9H21N
solvent | 2-methoxyethanol | 100 mL | COCCO | C3H8O2
product | 2-(2-fluorophenyl)-8,9,10,11-tetrahydro[1]benzothieno[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)one | yield is 50% | FC1=C(C=CC=C1)C1=NN2C(NC3=C(C2=N1)C1=C(S3)CCCC1)=O | C17H13FN4OS
